US08492378B2
2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole
To a solution of 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylthio)-1,3,4-oxadiazole (0.50 g, 2.13 mmol) in acetonitrile (10 mL) was added m-chloroperbenzoic acid (70%, 1.51 g, 6.40 mmol) at 0° C., and the obtained mixture was stirred at room temperature for 2 days. A saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to give the title compound (0.44 g, yield 78%) as colorless crystals.

reactant | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylthio)-1,3,4-oxadiazole | 2.13 mmol, 0.50 g | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)SC | C11H10N2O2S
reactant | m-chloroperbenzoic acid | 6.40 mmol, 1.51 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole | 0.44 g, yield 78% | O1CCC2=C1C=CC(=C2)C=2OC(=NN2)S(=O)(=O)C | C11H10N2O4S
